US05852023
Preparation of the precursor 4-(cis-4-tert-butylcyclohexylamino)-5-chloro-6-(1-methylthioethyl)pyrimidine
19.8 g (60 mmol) of 4-(cis-4-tert-butylcyclohexylamino)-5-chloro-6-(1-chloroethyl)pyrimidine and 4.2 g (60 mmol) of sodium methanethiolate were heated at reflux in 100 ml of methanol for 6 hours. The mixture was concentrated and the residue was taken up in water/toluene. The organic phase was dried and concentrated, to give 17.7 g (85% of theory) of a colorless resin which was subsequently reacted without further purification.

reactant | 4-(cis-4-tert-butylcyclohexylamino)-5-chloro-6-(1-chloroethyl)pyrimidine | 60 mmol, 19.8 g | C(C)(C)(C)[C@H]1CC[C@H](CC1)NC1=NC=NC(=C1Cl)C(C)Cl | C16H25Cl2N3
reactant | sodium methanethiolate | 60 mmol, 4.2 g | C[S-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 4-(cis-4-tert-butylcyclohexylamino)-5-chloro-6-(1-methylthioethyl)pyrimidine | C(C)(C)(C)[C@H]1CC[C@H](CC1)NC1=NC=NC(=C1Cl)C(C)SC | C17H28ClN3S
